US07772261B2
2.0 g (5.0 mmol) of tert-butyl 3-amino-5-(1-methyl-1-phenylethylcarbamoyl)-1H-pyrazolo[4,3-d]thiazole-1-carboxylate dissolved in 40 ml of pyridine are placed in a 250 ml round-bottomed flask under argon. 1.56 g (5.0 mmol) of 4-(4-methylpiperazin-1-yl)benzoyl chloride dihydrochloride (prepared according to WO 2005/113494) are then gradually added and the mixture is stirred for 15 hours at 25° C. The reaction medium is then concentrated to dryness under reduced pressure (40° C.) and the residue is taken up in 50 ml of dichloromethane and 50 ml of water, and basified with 0.1N sodium hydroxide solution. The emulsion obtained is resorbed by saturation with sodium chloride. After separation of the phases by settling, the organic phase is dried over magnesium sulfate and concentrated to dryness under reduced pressure. The residue is purified by flash chromatography (msilica=30 g; eluent: 95/5 dichloromethane/methanol). 1.32 g of tert-butyl 5-(1-methyl-1-phenylethylcarbamoyl)-3-[4-(4-methylpiperazin-1-yl)benzoylamino]-1H-pyrazolo[4,3-d]thiazole-1-carboxylate are thus obtained in the form of a yellow foam. 1H NMR (400 MHz, DMSO-d6): δ ppm 1.62 (s, 9H); 1.70 (s, 6H); 2.22 (s, 3H); 2.44 (m, 4H); 3.32 (m, 4H); 7.02 (d, J=8.5 Hz, 2H); 7.20 (t, J=7.5 Hz, 1H); 7.30 (t, J=7.5 Hz, 2H); 7.40 (d, J=7.5 Hz, 2H); 7.95 (d, J=8.5 Hz, 2H); 8.71 (s, 1H); 11.05 (s, 1H). LC-MS-DAD-ELSD: 602(−)=(M−H)(−); 604(+)=(M+H)(+).

reactant | tert-butyl 3-amino-5-(1-methyl-1-phenylethylcarbamoyl)-1H-pyrazolo[4,3-d]thiazole-1-carboxylate | 5.0 mmol, 2.0 g | NC1=NN(C2=C1N=C(S2)C(NC(C)(C2=CC=CC=C2)C)=O)C(=O)OC(C)(C)C | C19H23N5O3S
reactant | 4-(4-methylpiperazin-1-yl)benzoyl chloride dihydrochloride | 5.0 mmol, 1.56 g | Cl.Cl.CN1CCN(CC1)C1=CC=C(C(=O)Cl)C=C1
reactant | sodium chloride | [Cl-].[Na+]
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
product | tert-butyl 5-(1-methyl-1-phenylethylcarbamoyl)-3-[4-(4-methylpiperazin-1-yl)benzoylamino]-1H-pyrazolo[4,3-d]thiazole-1-carboxylate | 1.32 g | CC(C)(C1=CC=CC=C1)NC(=O)C=1SC2=C(N1)C(=NN2C(=O)OC(C)(C)C)NC(C2=CC=C(C=C2)N2CCN(CC2)C)=O | C31H37N7O4S
